### PR TITLE
[Merged by Bors] - chore(Data/FunLike): tag `IsApply` lemmas as simp

### PR DESCRIPTION
**Pull request by loefflerd**
The new `IsApply` typeclasses allow many existing special-case `coe_xxx` lemmas to be unified; but the general lemmas currently do not have the simp tag. This tags them as simp. 

Other minor changes:
- There were two lemmas with statements identical up to argument order: `FunLike.coe_smul` (directly written) and `FunLike.coe_smul'` (auto-generated by `to_additive`). I unified these using `to_additive existing`, with a deprecation alias for `FunLike.coe_smul'`.
- Downstream code that uses `FunLike.coe_smul'` is adjusted appropriately (un-squeezing a couple of lengthy terminal `simp only`'s in the process).
- One more specific simp lemma downstream (`ContinuousLinearMap.coe_pow'`) is removed, because `simp` can now prove it using the `FunLike` simp lemmas. A misnamed lemma in this file, `ContinuousLinearMap.coe_pow`, was re-named to `ContinuousLinearMap.toLinearMap_pow`.
- There were just two simps (both in `Mathlib/Probability/Distributions/Gaussian/Basic.lean`) which broke, because they used an un-squeezed `simp` along with an additional explicitly provided lemma (not part of the default simp set) that conflicted with `FunLike.coe_zero`. These I fixed by explicitly removing `FunLike.coe_zero` from the simp set where necessary.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6f3413762fd885e20b09235750dc47a5e2c7aa31?reference=3dfea7c0c262200402250f503f76826c50e08fcd) for 6f3413762fd885e20b09235750dc47a5e2c7aa31 against 3dfea7c0c262200402250f503f76826c50e08fcd are in. There are significant results. @loefflerd

- 🟥 `main` exited with code **1**

No significant changes detected.

**Comment by mcdoll** [comment]
Thanks, one thing to check is whether `simp?` picks `add_apply` over `FunLike.coe_add, Pi.add_apply`. I think I read on zulip recently that this is the case, but I haven't checked it.

**Comment by loefflerd** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/854815e969520d26b95a5cf832ac82875d96ea7a?reference=3dfea7c0c262200402250f503f76826c50e08fcd) for 854815e969520d26b95a5cf832ac82875d96ea7a against 3dfea7c0c262200402250f503f76826c50e08fcd are in. There are significant results. @loefflerd

- 🟥 `main` exited with code **1**

No significant changes detected.

**Comment by loefflerd** [comment]
!bench

(3rd time lucky I hope)

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/d009603ac3d1fb51ef8d403b81ee1dc3ca48df0a?reference=3dfea7c0c262200402250f503f76826c50e08fcd) for d009603ac3d1fb51ef8d403b81ee1dc3ca48df0a against 3dfea7c0c262200402250f503f76826c50e08fcd are in. No significant results found. @loefflerd

- 🟥 `build//instructions`: **+2.4G** (**+0.00%**)

No significant changes detected.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean [hunk 1]
```diff
@@ -589,13 +589,12 @@ theorem toLinearMap_mul (f g : M₁ →L[R₁] M₁) : (↑(f * g) : M₁ →ₗ
 instance monoidWithZero : MonoidWithZero (M₁ →L[R₁] M₁) :=
   fast_instance% FunLike.monoidWithZero
 
-@[simp, norm_cast]
-theorem coe_pow' (f : M₁ →L[R₁] M₁) (n : ℕ) : ⇑(f ^ n) = f^[n] :=
-  hom_coe_pow _ rfl (fun _ _ ↦ rfl) _ _
+@[deprecated (since := "2026-07-23")] alias coe_pow' := FunLike.coe_pow_eq_iterate
 
 @[simp, norm_cast]
 theorem coe_pow (f : M₁ →L[R₁] M₁) (n : ℕ) : (↑(f ^ n) : M₁ →ₗ[R₁] M₁) = f ^ n :=
```
Comment (mcdoll) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean]: Can you also rename this to `toLinearMap_pow`, see the lemmas above.

File: Mathlib/Probability/Distributions/Gaussian/Basic.lean [hunk 2]
```diff
@@ -171,8 +173,7 @@ theorem isGaussian_iff_charFunDual_eq {μ : Measure E} [IsFiniteMeasure μ] :
   refine ⟨fun h ↦ h.charFunDual_eq, fun h ↦ ⟨fun L ↦ Measure.ext_of_charFun ?_⟩⟩
   ext u
   rw [charFun_map_eq_charFunDual_smul L u, h (u • L), charFun_gaussianReal]
-  simp only [FunLike.coe_smul', Pi.smul_apply, smul_eq_mul, ofReal_mul,
-    Real.coe_toNNReal']
+  simp only [FunLike.coe_smul, Pi.smul_apply, smul_eq_mul, ofReal_mul, Real.coe_toNNReal']
```
Comment (mcdoll) [inline Mathlib/Probability/Distributions/Gaussian/Basic.lean]:
```suggestion
  simp only [smul_apply, smul_eq_mul, ofReal_mul, Real.coe_toNNReal']
```
untested

**Review by mcdoll — COMMENTED** [review]
Could you also update the PR message to indicate the various other changes? They all look good.
On a slightly unrelated note I think that `norm_jacobiTheta₂_term_fderiv_ge` should be rewritten as a `calc` proof, but this is not in scope for this PR. I can do it later.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean]: Renamed with deprecation.

**Comment by loefflerd** [comment]
Thanks Moritz! I applied your suggestions and updated the PR description. I think the only outstanding issue is whether the last two lemmas in `FunLike/IsApply.lean` should be re-named (the ones that have `coe_xxx` in their names, but don't actually explicitly involve the `toFun` coercion). These cannot be made simp, since they actually conflict with the other lemmas in the file and lead to infinite simp looping.

File: Mathlib/Data/FunLike/IsApply.lean [hunk 3]
```diff
@@ -213,53 +213,54 @@ theorem coe_one_iff [One F] [One β] [IsOneApply F α β] (f : F) : (f : α →
...
 theorem coe_mul_eq_comp [Mul F'] [IsMulApplyEqComp F' α] (f g : F') : ↑(f * g) = f ∘ g := by
   ext; simp
 
-@[norm_cast]
+@[simp, norm_cast]
 lemma coe_pow_eq_iterate [Monoid F'] [IsMulApplyEqComp F' α] [IsOneApplyEqSelf F' α]
     (f : F') (n : ℕ) : ⇑(f ^ n) = f^[n] :=
   funext <| pow_apply_eq_iterate f n
 
+-- these lemmas seem to be misnamed? the FunLike coercion isn't used in the statement!
```
Comment (mcdoll) [inline Mathlib/Data/FunLike/IsApply.lean]: maybe `natCast_eq_smul` or `natCast_eq_self_smul_one`?

**Review by mcdoll — COMMENTED** [review]
Maybe you overlooked it, but have you tried what happens when you squeeze a `simp`? is the output `FunLike.coe_add, Pi.add_apply` or `add_apply`? in the first case we would need to change the priority of `FunLike.coe_add` to `low`, but I would expect it not to be necessary.
Minor nit: please move the minor changes above the line, would be good if they appear in the commit message (I don't think anyone minds longish commit messages).

**Comment by loefflerd** [comment]
> Maybe you overlooked it, but have you tried what happens when you squeeze a `simp`? is the output `FunLike.coe_add, Pi.add_apply` or `add_apply`? in the first case we would need to change the priority of `FunLike.coe_add` to `low`, but I would expect it not to be necessary. 

I checked and
```lean
example [Mul F] [Mul β] [IsMulApply F α β] (f g : F) (x : α) : 
    (f * g) x = f x * g x := by
  simp?
```
returns `simp only [mul_apply]`, which is good. Shall I add this as a test in the file, using `#guard_msgs`?

> Minor nit: please move the minor changes above the line, would be good if they appear in the commit message (I don't think anyone minds longish commit messages).

Actually I do mind, because I am such a dinosaur that I actually use `git log` from the command line regularly, and because I find that very long waffly PR descriptions are usually a sign of poor-quality AI-slop PR's. But I guess I can just hack my bash profile so that `git log` defaults to `--oneline`.

**Comment by mcdoll** [comment]
I think we should be fine without a `#guard_msg`, the only way the behaviour would change is if core does something odd with `simp`.
I totally agree with you on LLM waffle, I meant long but with high signal to noise ratio. It is more convenient to have that info in git, not just github, for instance when using blame.

**Comment by mcdoll** [comment]
Thank you!
maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
